US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 13 which is concerned with the preparation of starting materials 1-methylhomopiperazine was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-methyl-1,4-diazepan-1-yl)-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.67 (m, 2H), 1.91 (m, 2H), 2.26 (s, 3H), 2.29 (s, 3H), 2.44 (m, 2H), 2.64 (m, 2H), 2.82 (m, 1H), 3.61 (m, 2H), 3.66 (m, 2H), 6.81 (s, 1H), 6.88 (d, 1H), 7.28 (d, 1H), 7.55 (d, 1H), 7.96 (s, 1H), 8.03 (d, 1H), 8.36 (s, 1H), 9.88 (s, 1H); Mass Spectrum: M+H+ 452.

reactant | 1-methylhomopiperazine | CN1CCNCCC1 | C6H14N2
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-methyl-1,4-diazepan-1-yl)-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CCN(CCC1)C)[N+](=O)[O-])=O)C | C24H29N5O4
